US07491710B2
The dimethylphosphinic acid 4-nitrophenyl ester reactant is prepared according to procedure E using 500 mg of dimethylphosphinic chloride, 214 mg of sodium hydride (50% in oil), and 618 mg of p-nitrophenol in solution in 10 ml of tetrahydrofuran. 700 mg of expected product are collected. Yield=26%.

reactant | dimethylphosphinic chloride | 500 mg | CP(=O)(C)Cl | C2H6ClOP
reactant | sodium hydride | 214 mg | [H-].[Na+]
reactant | p-nitrophenol | 618 mg | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | dimethylphosphinic acid 4-nitrophenyl ester | Yield=26% | [N+](=O)([O-])C1=CC=C(C=C1)OP(=O)(C)C | C8H10NO4P
